US06057264
A mixture of 2,2-dimethyl N-isobutylindoline (2.0 g) and concentrated hydrochloric acid (4.5 cm3) was cooled to 8° C. and sodium nitrite (0.8 g) in water (2 cm3) was added dropwise. The reaction mixture was allowed to warm to ambient temperature, made alkaline with sodium hydroxide solution an extracted with ethyl acetate. The ethyl acetate was dried over magnesium sulphate, filtered and evaporated to give 5-nitroso-2,2-dimethyl N-isobutyl indoline.

reactant | 2,2-dimethyl N-isobutylindoline | 2.0 g | CC1(N(C2=CC=CC=C2C1)CC(C)C)C | C14H21N
reactant | hydrochloric acid | 4.5 cm3 | Cl | ClH
reactant | sodium nitrite | 0.8 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2 cm3 | O | H2O
product | 5-nitroso-2,2-dimethyl N-isobutyl indoline | N(=O)C=1C=C2CC(N(C2=CC1)CC(C)C)(C)C | C14H20N2O
